### PR TITLE
[Merged by Bors] - refactor: ungeneralize `LinearIndependent`

### PR DESCRIPTION
**Pull request by eric-wieser**
The existing definition is nonsense over semirings; this replaces it with a more plausible one, such that:
```lean
example : ¬ LinearIndependent ℕ Nat.succ := by
  intro h
  have := @h (.single 3 1) (.single 1 2)
  simp [Finsupp.single_eq_single_iff] at this
```
which was previously true without the `¬`.
Some of the nonsense semiring results following the definition must then be ungeneralized to rings.

I've been conservative here and only generalized the ones that generalizer trivially, and are used by important downstream
applications such as `Basis` on semirings. Unimportant downstream applications have instead been ungeneralized to `Ring`.
Many more results can likely be generalized in future.

Some context at https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/.E2.9C.94.20.60E.2FL.2FF.60.20and.20.60K.2FL'.2FF.60.20isomorphic.20.3D.3E.20.60.5BE.3AL.5D.3D.5BK.3AL'.5D.60/near/408999160.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 1]
```diff
@@ -119,11 +124,65 @@ def delabLinearIndependent : Delab :=
       withNaryArg 0 do return (← read).optionsPerPos.setBool (← getPos) `pp.analysis.namedArg true
     withTheReader Context ({· with optionsPerPos}) delab
 
-variable {R} {v}
+variable {R v}
+
+theorem linearIndependent_iff_injective_linearCombination :
+    LinearIndependent R v ↔ Function.Injective (Finsupp.linearCombination R v) := Iff.rfl
+
+alias ⟨LinearIndependent.injective_linearCombination, _⟩ :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:132]: Don't we usually put "injective" at the end as an exception to the naming convention?

File: Mathlib/LinearAlgebra/Basis/Basic.lean [hunk 2]
```diff
@@ -122,15 +120,18 @@ protected theorem noZeroSMulDivisors [NoZeroDivisors R] (b : Basis ι R M) :
...
+      have := b.linearIndependent hcx
       rw [smul_eq_zero] at this
       exact this.resolve_right fun hr => hx (b.repr.map_eq_zero_iff.mp hr)⟩
 
 protected theorem smul_eq_zero [NoZeroDivisors R] (b : Basis ι R M) {c : R} {x : M} :
     c • x = 0 ↔ c = 0 ∨ x = 0 :=
   @smul_eq_zero _ _ _ _ _ b.noZeroSMulDivisors _ _
 
+
+variable {R M : Type*} [Ring R] [AddCommGroup M] [Module R M]
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Basis/Basic.lean:134]: Probably it would be good to have a section here

File: Mathlib/LinearAlgebra/LinearIndependent.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/LinearIndependent.lean:132]: Because `LinearIndependent.injective_linearCombination` is an existing result in mathlib, as well as `linearIndependent_iff_injective_linearCombination`.

**Comment by acmepjz** [comment]
Looks good! I think it's OK as long as it does not break major results in mathlib.

**Review by YaelDillies — COMMENTED** [review]
I tend to agree with https://github.com/leanprover-community/mathlib4/pull/18426/files#r1821964810. Otherwise it looks like a good change, thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Taking into account the last comment LGTM, thanks.

bors d+

File: Mathlib/LinearAlgebra/LinearIndependent.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearIndependent.lean:132]: Yes, all these declarations are just moved.

**Comment by eric-wieser** [comment]
bors merge
